US07148239B2
5,6-Dihydro-5-(1-piperidinyl)methyl-3-(3-pyridyl)-4H-1,2,4-oxadiazine
13.2 g (35.7 mmol) of N-[2-chloro-3-(1-piperidinyl)propoxy]-3-pyridinecarboximidamide dihydrochloride was added to a solution of 16.5 g (143.5 mmole) of potassium tert-butoxide dissolved in 150 ml of tert-butanol. The mixture was boiled for 6 hours, then evaporated in vacuum. 100 ml of 5% sodium hydroxide solution was added and the mixture was extracted three times with 300 ml portions of ethyl acetate.

reactant | N-[2-chloro-3-(1-piperidinyl)propoxy]-3-pyridinecarboximidamide dihydrochloride | 35.7 mmol, 13.2 g | Cl.Cl.ClC(CONC(=N)C=1C=NC=CC1)CN1CCCCC1
reactant | potassium tert-butoxide | 143.5 mmole, 16.5 g | CC(C)([O-])C.[K+]
solvent | tert-butanol | 150 ml | C(C)(C)(C)O | C4H10O
product | 5,6-Dihydro-5-(1-piperidinyl)methyl-3-(3-pyridyl)-4H-1,2,4-oxadiazine | N1(CCCCC1)CC1NC(=NOC1)C=1C=NC=CC1 | C14H20N4O
